US06017919
2-Hydroxy-3-methoxybenzoic acid (15.66 g, 93 mmol), DMF (200 ml), potassium carbonate (51.4 g, 372 mmol) and pentyl bromide (29 ml, 233 mmol) were mixed, and this solution was stirred at 90° C. for 1 hour. DMF was evaporated under reduced pressure, and water (100 ml) was added. The aqueous layer was extracted 3 times with ethyl acetate (150 ml). The organic layers were combined, washed twice with saturated brine (70 ml), and dried over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate was concentrated under reduced pressure. To the obtained residue were added a 1N aqueous sodium hydroxide solution (70 ml) and ethanol (70 ml), and the mixture was refluxed under heating for 1 hour. A 1N aqueous sodium hydroxide solution (70 ml) and ethanol (70 ml) were further added, and the mixture was refluxed under heating for 2 hours. Ethanol was evaporated under reduced pressure, and conc. hydrochloric acid was added to make this solution acidic. The aqueous layer was extracted 3 times with ethyl acetate (100 ml). The organic layers were combined, washed twice with saturated brine (100 ml), and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (hexane/ethyl acetate=2/1-1/1) to give 3-methoxy-2-pentyloxybenzoic acid (20.5 g, 97%) as a pale-yellow oil.

reactant | 2-Hydroxy-3-methoxybenzoic acid | 93 mmol, 15.66 g | OC1=C(C(=O)O)C=CC=C1OC | C8H8O4
reactant | potassium carbonate | 372 mmol, 51.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | pentyl bromide | 233 mmol, 29 ml | C(CCCC)Br | C5H11Br
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 3-methoxy-2-pentyloxybenzoic acid | 20.5 g, 97% | COC=1C(=C(C(=O)O)C=CC1)OCCCCC | C13H18O4
